US07592373B2
N-(4′-methoxybiphenyl-4-yl)-3-(4-pyrrolidin-1-ylmethylphenyl)propionamide
A reaction mixture of 60 mg (0.14 mmol) of (E)-N-(4′-methoxybiphenyl-4-yl)-3-(4-pyrrolidin-1-ylmethylphenyl)acrylamide and 10 mg of Raney nickel in 30 mL of methanol is hydrogenated for 4 hours. The catalyst is filtered off and the filtrate is evaporated to dryness. Yield: 56 mg (93.2% of theory); melting point: 185° C.-188° C.; C27H30N2O2 (M=414.55); calc.: molecular ion peak (M+H)+: 415; found: molecular ion peak (M+H)+: 415; Rf value: 0.29 (silica gel, dichloromethane/methanol/ammonia (90:10:1)).

reactant | (E)-N-(4′-methoxybiphenyl-4-yl)-3-(4-pyrrolidin-1-ylmethylphenyl)acrylamide | 0.14 mmol, 60 mg | COC1=CC=C(C=C1)C1=CC=C(C=C1)NC(\C=C\C1=CC=C(C=C1)CN1CCCC1)=O | C27H28N2O2
catalyst | Raney nickel | 10 mg | [Ni] | Ni
solvent | methanol | 30 mL | CO | CH4O
product | N-(4′-methoxybiphenyl-4-yl)-3-(4-pyrrolidin-1-ylmethylphenyl)propionamide | COC1=CC=C(C=C1)C1=CC=C(C=C1)NC(CCC1=CC=C(C=C1)CN1CCCC1)=O | C27H30N2O2
